US05753664
7-[4-(4-Chlorobenzoyl)benzyl]-3-ethyl-7H-pyrrolo-[2,3-d]pyrimidin-4-one
In a mixture of DME (15 ml) and ethanol (1.5 ml) was dissolved 7-[4-(4-chlorobenzoyl)benzyl]-3-ethyl-2-methylthio-7H-pyrrolo[2,3-d]pyrimidin-4-one (221 mg) followed by addition of acetic acid (185 mg), and the mixture was warmed to 40° C. Then, Raney nickel was added until disappearance of the starting compound could be verified by TLC. The catalyst was then filtered off and the solvent was removed under reduced pressure. The residue was dissolved in ethyl acetate, washed with saturated aqueous NaHCO3 solution and saturated aqueous NaCl solution in the order mentioned, and dried over anhydrous magnesium sulfate. The solvent was then distilled off under reduced pressure and the residue was allowed to stand, whereupon crystals separated out. This crystal crop was harvested by filtration, rinsed with ethanol and hexane, and dried to provide the title compound (141 mg).

reactant | 7-[4-(4-chlorobenzoyl)benzyl]-3-ethyl-2-methylthio-7H-pyrrolo[2,3-d]pyrimidin-4-one | 221 mg | ClC1=CC=C(C(=O)C2=CC=C(CN3C=CC4=C3N=C(N(C4=O)CC)SC)C=C2)C=C1 | C23H20ClN3O2S
reactant | acetic acid | 185 mg | C(C)(=O)O | C2H4O2
solvent | DME | 15 ml | COCCOC | C4H10O2
solvent | ethanol | 1.5 ml | C(C)O | C2H6O
catalyst | Raney nickel | [Ni] | Ni
product | 7-[4-(4-Chlorobenzoyl)benzyl]-3-ethyl-7H-pyrrolo-[2,3-d]pyrimidin-4-one | 141 mg | ClC1=CC=C(C(=O)C2=CC=C(CN3C=CC4=C3N=CN(C4=O)CC)C=C2)C=C1 | C22H18ClN3O2
